US05081271
3,5-Bis(trimethylsilyl)benzoic Acid
A suspension of 2.0 g (14 mmol) of Ca(0Cl)2, 1.38 g(10 mmol) of potassium carbonate and 0.40 g (7.12 mmol) of potassium hydroxide in 40 ml of water was stirred at 65° C. for 30 minutes and filtered. The filtrate was added to 0.53 g (2 mmol) of 3',5'-bis(trimethylsilyl)acetophenone and the mixture was refluxed for 7.5 hours with stirring. After cooling, 3 ml of aqueous sodium bisulfite solution was added to the reaction mixture. The aqueous solution was extracted with AcOEt. The extract was washed successively with water and sat.aq.NaCl, dried over anhyd.Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel [eluent: n-hexane-AcOEt (2:1-1:1)] to give 0.27 g of white powder, m.p.>300° C. (yield 51%).

reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 7.12 mmol, 0.40 g | [OH-].[K+]
reactant | 3',5'-bis(trimethylsilyl)acetophenone | 2 mmol, 0.53 g | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C(C)=O)(C)C | C14H24OSi2
reactant | sodium bisulfite | 3 ml | S([O-])(O)=O.[Na+]
solvent | water | 40 ml | O | H2O
product | 3,5-Bis(trimethylsilyl)benzoic Acid | 0.27 g, yield 51% | C[Si](C=1C=C(C(=O)O)C=C(C1)[Si](C)(C)C)(C)C | C13H22O2Si2
